US05563162
To a stirred solution of 3-amino-N,N-dimethylbenzamide (1.3 g) in 1,4-dioxane(20 ml) was added 1N sodium hydroxide (23.4 ml) and phenyl chloroformate (1.5 ml) successively in an ice-cooled bath. The bath was removed and the reaction mixture was stirred vigorously for 3 hours during which time, phenyl chloroformate (0.7 ml) was further added. The mixture was extracted with ethyl acetate and the organic layer was washed with water and saturated sodium chloride solution. After dried over anhydrous magnesium sulfate and filtered, the solvent was removed in vacuo and the residual oil was purified by flash chromatography eluting with ethyl acetate-n-hexane (2:1, V/V) to give a solid, which was recrystallized from benzene-n-hexane (5:1, V/V) to afford phenyl 3-(dimethylcarbamoyl)phenylcarbamate (1.4 g) as a colorless powder.

reactant | 3-amino-N,N-dimethylbenzamide | 1.3 g | NC=1C=C(C(=O)N(C)C)C=CC1 | C9H12N2O
reactant | sodium hydroxide | 1N, 23.4 ml | [OH-].[Na+]
reactant | phenyl chloroformate | 1.5 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | phenyl 3-(dimethylcarbamoyl)phenylcarbamate | 1.4 g | CN(C(=O)C=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O)C | C16H16N2O3
